US04363909
By following the procedure of Example 2, but using (S)-3-methylthio-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium iodide (18.2 g) and 8-aminoisoquinoline (10.9 g) as the starting materials, (S)-3-(isoquinol-8-ylimino)-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline (11.8 g) is obtained in the form of pale yellow crystals, m.p.=206° C.

reactant | (S)-3-methylthio-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium iodide | 18.2 g | [I-].CSC=1SC[C@H]2[N+]1CC=1C=CC=CC1C2
reactant | 8-aminoisoquinoline | 10.9 g | NC=1C=CC=C2C=CN=CC12 | C9H8N2
product | (S)-3-(isoquinol-8-ylimino)-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline | 11.8 g | C1=NC=CC2=CC=CC(=C12)N=C1SC[C@H]2N1CC=1C=CC=CC1C2 | C20H17N3S
